US07429665B2
2-[3-Fluoro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
To a solution of 3-Fluoro-4-(1-methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenol (450 mg) in dimethylformamide (10 ml) was added cesium carbonate (2 g) and 2-chloro methyl quinoline (481 mg) and the reaction mixture was heated at 60° C. for 18 h. The reaction mixture was poured into 1N NaOH, extracted with methylene chloride, dried magnesium sulfate, filtered and concentrated. Biotage MPLC purification eluting with methanol 2%/0.5% ammonium hydroxide/70% ethyl acetate/hexanes provided the title compound. The free base was stirred in ethyl acetate and 1.1 equivalents of succinic acid was added. The white precipitate was filtered and dried to provide the title compound as the succinate salt (280 mg). 1H NMR (400 MHz, DMSO) δ 8.43 (d, J=8.3 Hz, 1 H), 8.37 (d, J=6.2 Hz, 2H), 8.26 (s, 1H), 8.00 (m, 2H), 7.78 (t, J=7.1 Hz, 1H), 7.70 (d, J=8.3 Hz, 1 H), 7.61 (t, J=6.6 Hz, 1 H), 7.38 (t, J=8.3, Hz, 1 H), 7.10 (d, J=6.2 Hz, 2H), 7.00 (m, 2H), 5.40 (s, 2H), 3.88 (s, 3 H), 2.38 (s, 4H), MS: (M+H m/z=411.1).

reactant | 3-Fluoro-4-(1-methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenol | 450 mg | FC=1C=C(C=CC1C1=NN(C=C1C1=CC=NC=C1)C)O | C15H12FN3O
reactant | cesium carbonate | 2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro methyl quinoline | 481 mg | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[3-Fluoro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | FC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1C1=NN(C=C1C1=CC=NC=C1)C | C25H19FN4O
